US07888364B2
2.5 g of 2-bromoacetamide was reacted with methyl 4-mercaptobenzoate via Procedure Q to afford methyl 4-(2-amino-2-oxoethylthio)benzoate. 2.6 g of methyl 4-(2-amino-2-oxoethylthio)benzoate was reacted via Procedure R to give methyl 4-(2-amino-2-oxoethylsulfonyl)benzoate. 1 g of methyl 4-(2-amino-2-oxoethylsulfonyl)benzoate was hydrolyzed via Procedure M to give 4-(2-amino-2-oxoethylsulfonyl)benzoic acid. 150 mg of 4-chloro-3-(pyridin-2-yl)aniline was coupled to 4-(2-amino-2-oxoethylsulfonyl)benzoic acid via Procedure G. The product was purified on reverse phase HPLC to yield 4-(2-amino-2-oxoethylsulfonyl)-N-(4-chloro-3-(pyridin-2-yl)phenyl)benzamide. MS (Q1) 430.2 (M)+.

reactant | 4-chloro-3-(pyridin-2-yl)aniline | 150 mg | ClC1=C(C=C(N)C=C1)C1=NC=CC=C1 | C11H9ClN2
reactant | 4-(2-amino-2-oxoethylsulfonyl)benzoic acid | NC(CS(=O)(=O)C1=CC=C(C(=O)O)C=C1)=O | C9H9NO5S
product | 4-(2-amino-2-oxoethylsulfonyl)-N-(4-chloro-3-(pyridin-2-yl)phenyl)benzamide | NC(CS(=O)(=O)C1=CC=C(C(=O)NC2=CC(=C(C=C2)Cl)C2=NC=CC=C2)C=C1)=O | C20H16ClN3O4S
